US07897609B2
A suspension of 1-{4-amino-2-(ethoxymethyl)-7-[5-(hydroxymethyl)pyridin-3-yl]-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl}-2-methylpropan-2-ol (627 mg, 1.48 mmol), obtained from the filtrate from the trituration in Example 68, in dichloromethane (25 mL) was cooled to −78° C. Boron tribromide (15 mL of a 1 M solution in dichloromethane) was added dropwise, and the reaction was allowed to warm to room temperature and stirred for 3.5 hours. Methanol (50 mL) was carefully added, and the resulting solution was stirred at room temperature for 30 minutes and concentrated under reduced pressure. A solution of ammonia in methanol (50 mL of 1 M) was added, and the mixture was stirred for 30 minutes. Silica gel was added, and the mixture was concentrated under reduced pressure. The resulting mixture was purified by automated flash chromatography (FLASH 40+M cartridge, eluting with 15% to 30% methanolic ammonia in dichloromethane). All fractions containing product were combined and concentrated, and the residue was dissolved in methanol (50 mL) and treated with 6 M hydrochloric acid. The solution was heated at 50° C. for two hours, concentrated under reduced pressure, and diluted with 2 N ammonia in methanol. Silica gel was added, and the mixture was concentrated under reduced pressure. Chromatographic purification was carried out again as described above with the modification that the elution gradient began with 5% methanolic ammonia in dichloromethane. The resulting product was dissolved in methanol (20 mL), divided in ten equal portions, and loaded onto ten Waters Oasis Sample Extractions Cartridge MCX columns (500 mg) according to the following procedure. Each column was washed with methanol (2 volumes) and 1 N ammonia in methanol (3 volumes), and the ammonia washes were combined and concentrated under reduced pressure. The resulting solid (200 mg) was triturated with acetonitrile, isolated by filtration, washed with acetonitrile, and dried in a vacuum oven to provide 175 mg of 1-{4-amino-2-(hydroxymethyl)-7-[5-(hydroxymethyl)pyridin-3-yl]-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl}-2-methylpropan-2-ol as a light yellow solid, mp 149-151° C.

reactant | 1-{4-amino-2-(ethoxymethyl)-7-[5-(hydroxymethyl)pyridin-3-yl]-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl}-2-methylpropan-2-ol | 1.48 mmol, 627 mg | NC1=NC=2C=C(C=NC2C2=C1N=C(N2CC(C)(O)C)COCC)C=2C=NC=C(C2)CO | C22H26N6O3
reactant | Boron tribromide | B(Br)(Br)Br | BBr3
reactant | Methanol | 50 mL | CO | CH4O
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 1-{4-amino-2-(hydroxymethyl)-7-[5-(hydroxymethyl)pyridin-3-yl]-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl}-2-methylpropan-2-ol | 175 mg | NC1=NC=2C=C(C=NC2C2=C1N=C(N2CC(C)(O)C)CO)C=2C=NC=C(C2)CO | C20H22N6O3
